US08217064B2
Ethyl-2-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)-4-methylpentanoate (0.35 g, 0.733 mmol) was dissolved in 25 mL of MeOH/THF/H2O (10:10:5, vvl), LiOH (0.176 g, 7.33 mmol) was added. The reaction mixture was stirred for 5 h at room temperature and concentrated under reduced pressure. Water (10 mL) was added and the reaction mixture was extracted with EtOAc (3×10 mL). The combined organic phases were dried over Na2SO4, filtered and evaporated under reduced pressure. Purification by column chromatography over silica gel (DCM/MeOH, 95:5) gave the compound 2-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)-4-methylpentanoic acid (0.085 g) as a white solid. 1H NMR (500 MHz, CDCl3): δ 7.69 (d, 2H), 7.41 (d, 2H), 7.20 (s, 1H), 6.86 (s, 1H), 4.23 (q, 2H), 3.71 (t, 1H), 2.01 (m, 1H), 1.73 (m, 1H), 1.58 (m, 1H), 0.98 (d, 6H).

reactant | Ethyl-2-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)-4-methylpentanoate | 0.733 mmol, 0.35 g | C(C)OC(C(CC(C)C)C1=CC(=C(C(=C1)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)Cl)=O | C23H23ClF6O3
reactant | LiOH | 7.33 mmol, 0.176 g | [Li+].[OH-]
solvent | MeOH THF H2O | 25 mL | CO.C1CCOC1.O
product | 2-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)-4-methylpentanoic acid | 0.085 g | ClC1=C(C(=CC(=C1)C(C(=O)O)CC(C)C)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C21H19ClF6O3
